US06479536B1
To a solution of (+)-2,2,4,6,7-pentamethyl-3-(4-methylphenyl)-2,3-dihydro-1-benzofuran-5-amine (6.00 g, 20.3 mmol) in tetrahydrofuran (50 ml) was added under an argon atmosphere 4,5-dimethoxyphthalic anhydride (4.43 g, 21.3 mmol) and the mixture was refluxed with heating for 3 hours. The reaction mixture was cooled down to room temperature and then 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide (WSC) hydrochloride (4.67 g, 24.4 mmol) and 1-hydroxy-1H-benzotriazole (HOBT) monohydrate (3.74 g, 24.4 mmol) were added to the mixture. The resulting mixture was refluxed with heating for 14 hours and then cooled down to room temperature. Water and an 8 N aqueous solution of sodium hydroxide were added into the reaction mixture and the product was extracted twice with ethyl acetate. The combined extracts were washed with an aqueous saturated solution of sodium hydrogen carbonate, dried on magnesium sulfate, filtered, and then concentrated under reduced pressure to obtain 8.40 g of (+)-5,6-dimethoxy-2-[2,2,4,6,7-pentamethyl-3-(4-methylphenyl)-2,3-dihydro-1-benzofuran-5-yl]-1H-isoindole-1,3(2H)-dione as a crude product. To a solution of aluminum chloride (13.6 g, 102 mmol) in tetrahydrofuran (60 ml) was added lithium aluminum hydride (3.87 g, 102 mmol) and the resulting mixture was stirred for 10 minutes. To this mixture was added a solution of the above-described crude product in tetrahydrofuran (30 ml) and the resulting mixture was refluxed with heating for 3 hours. The reaction mixture was cooled down to room temperature and water was added into the mixture. The product was extracted twice with ethyl acetate. The combined extracts were washed with a 1 N aqueous solution of sodium hydroxide, dried on magnesium sulfate, filtered, and then concentrated under reduced pressure. The residue was subjected to column chromatography (hexane-ethyl acetate 8:1) on silica gel to obtain 6.23 g (68% yield) of the title compound. Melting point: 157-159° C. [α]D=+62.3° (c=0.488, methanol)

reactant | (+)-2,2,4,6,7-pentamethyl-3-(4-methylphenyl)-2,3-dihydro-1-benzofuran-5-amine | 20.3 mmol, 6.00 g | CC1(OC2=C(C1C1=CC=C(C=C1)C)C(=C(C(=C2C)C)N)C)C | C20H25NO
reactant | 4,5-dimethoxyphthalic anhydride | 21.3 mmol, 4.43 g | COC=1C=C2C(C(=O)OC2=O)=CC1OC | C10H8O5
reactant | 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide | 24.4 mmol, 4.67 g | C(C)N=C=NCCCN(C)C | C8H17N3
reactant | 1-hydroxy-1H-benzotriazole | 24.4 mmol, 3.74 g | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | sodium hydroxide | [OH-].[Na+]
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
solvent | Water | O | H2O
product | (+)-5,6-dimethoxy-2-[2,2,4,6,7-pentamethyl-3-(4-methylphenyl)-2,3-dihydro-1-benzofuran-5-yl]-1H-isoindole-1,3(2H)-dione | 8.40 g | COC=1C=C2C(N(C(C2=CC1OC)=O)C=1C(=C(C2=C(C(C(O2)(C)C)C2=CC=C(C=C2)C)C1C)C)C)=O | C30H31NO5
